US05753664
1-[4-(4-Chlorobenzoyl)benzyl]-1,6,7,8-tetrahydro-5H-cyclopent[d]imidazo[1,2-a]pyrimidin-5-one
To a solution of 1,6,7,8-tetrahydro-5H-cyclopent[d]imidazo[1,2-a]pyrimidin-5-one (0.345 g, 1.967 mmol) and 4-(4-chlorobenzoyl)benzyl bromide (0.0650 g, 2.10 mmol) in DMF (15.0 ml)-DMSO (5 ml) was added potassium carbonate (0.30 g, 2.17 mmol) and the mixture was stirred at room temperature overnight. The solvent was then distilled off and the residue was purified by preparative TLC (methylene chloride: methanol=20:1) to provide a colorless amorphous solid.

reactant | 1,6,7,8-tetrahydro-5H-cyclopent[d]imidazo[1,2-a]pyrimidin-5-one | 1.967 mmol, 0.345 g | N1C=CN2C1=NC1=C(C2=O)CCC1 | C9H9N3O
reactant | 4-(4-chlorobenzoyl)benzyl bromide | 2.10 mmol, 0.0650 g | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
reactant | DMSO | 5 ml | CS(=O)C | C2H6OS
reactant | potassium carbonate | 2.17 mmol, 0.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15.0 ml | CN(C)C=O | C3H7NO
product | 1-[4-(4-Chlorobenzoyl)benzyl]-1,6,7,8-tetrahydro-5H-cyclopent[d]imidazo[1,2-a]pyrimidin-5-one | ClC1=CC=C(C(=O)C2=CC=C(CN3C=CN4C3=NC3=C(C4=O)CCC3)C=C2)C=C1 | C23H18ClN3O2
